US07737295B2
In a rocker shaker was charged 37 g (0.2 mol) of 2-amino-5-(trifluoromethyl)benzonitrile in 500 mL of ethanol and 76 mL of ammonium hydroxide. The contents were degassed/blanketed with nitrogen, 25 g of Raney nickel were added, then the shaker was pressurized with 40 psi hydrogen gas. At 15 hours TLC analysis (20/80 ethyl acetate/hexane) revealed no starting material. The contents were filtered through Celite and washed with ether and concentrated to 37 g black oil. The oil was chromatographed on a Biotage 75L cartridge with methanol/methylene chloride and ammonium hydroxide/methanol/methylene chloride to give [2-(aminomethyl)-4-(trifluoromethyl)phenyl]amine as a green oil.

reactant | 2-amino-5-(trifluoromethyl)benzonitrile | 0.2 mol, 37 g | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ammonium hydroxide | 76 mL | [OH-].[NH4+]
catalyst | Raney nickel | 25 g | [Ni] | Ni
product | [2-(aminomethyl)-4-(trifluoromethyl)phenyl]amine | NCC1=C(C=CC(=C1)C(F)(F)F)N | C8H9F3N2
